US04038392
Methyl 3-(N-methyl-2-imidazolyl)thiomethyl-2-quinoxalinecarboxamide-1,4-dioxide
Methyl 3-bromomethyl-2-quinoxalinecarboxamide-1,4-dioxide (0.24 moles) was suspended in 1 liter of chloroform with stirring and N-methyl-2-mercaptoimidazole (0.24 moles) was added as a solid. A complete solution resulted within 10 minutes. The solution was stirred overnight at room temperature during which time the desired product crystallized as the hydrobromide. The product was collected by filtration and dried. Yield, 96 grams (91%); m.p. 148°-52° C.

reactant | Methyl 3-bromomethyl-2-quinoxalinecarboxamide-1,4-dioxide | 0.24 moles | CC=1C2=[N+](C(=C([N+](=C2C=CC1)[O-])C(=O)N)CBr)[O-] | C11H10BrN3O3
reactant | N-methyl-2-mercaptoimidazole | 0.24 moles | CN1C(=NC=C1)S | C4H6N2S
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
product | Methyl 3-(N-methyl-2-imidazolyl)thiomethyl-2-quinoxalinecarboxamide-1,4-dioxide | CC=1C2=[N+](C(=C([N+](=C2C=CC1)[O-])C(=O)N)CSC=1N(C=CN1)C)[O-] | C15H15N5O3S
